### PR TITLE
[Merged by Bors] - chore: prefer `open scoped Classical` over `open Classical`

### PR DESCRIPTION
**Pull request by felixpernegger**
As suggested [here](https://github.com/leanprover-community/mathlib4/pull/41387#issuecomment-4892479952).

Replace `open Classical` with `open scoped Classical` whenever possible (only like `open Classical` 5 remain), excluding MathlibTest. 6 more `open Classical` were found to be entirely redundant.

This was done with a script bruteforcing every occurence of `open Classical` (script made by Claude code).

The next PR in this series will try to remove redundant `open scoped Classical`. (I would also do `classical` but my computer is a bit too slow for that...)

---

- [x] depends on: #41387

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/PurelyInseparable/Exponent.lean [hunk 1]
```diff
@@ -67,10 +67,10 @@ noncomputable def exponent [HasExponent K L] : ℕ :=
 
 variable {L}
 
-open Classical in
 theorem exponent_def [HasExponent K L] (a : L) :
-    a ^ ringExpChar K ^ exponent K L ∈ (algebraMap K L).range :=
-  Nat.find_spec ‹HasExponent K L›.has_exponent a
+    a ^ ringExpChar K ^ exponent K L ∈ (algebraMap K L).range := by
+  classical
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/PurelyInseparable/Exponent.lean:72]: Sometimes you write `open scoped Classical in ...` and sometimes `by classical; exact ...`. Either way is okay but`by classical; exact` seems to be much more used (I count 2426 lines matching `^  classical$` versus 788 total occurrences of `open scoped Classical`). So let's use `by classical`; I'll add a note to the `open scoped Classical` in theorems that I encounter in the diff.

File: Mathlib/Logic/Nontrivial/Defs.lean [hunk 2]
```diff
@@ -58,8 +58,9 @@ protected theorem Decidable.exists_ne [Nontrivial α] [DecidableEq α] (x : α)
     exact ⟨y', h.symm⟩
   · exact ⟨y, Ne.symm hx⟩
 
-open Classical in
-theorem exists_ne [Nontrivial α] (x : α) : ∃ y, y ≠ x := Decidable.exists_ne x
+theorem exists_ne [Nontrivial α] (x : α) : ∃ y, y ≠ x :=
+  open scoped Classical in
+  Decidable.exists_ne x
```
Comment (Vierkantor) [inline Mathlib/Logic/Nontrivial/Defs.lean]:
```suggestion
theorem exists_ne [Nontrivial α] (x : α) : ∃ y, y ≠ x := by
  classical
  exact Decidable.exists_ne x
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 3]
```diff
@@ -1074,10 +1074,10 @@ theorem exists_ord_eq (α) : ∃ (r : α → α → Prop) (_ : IsWellOrder α r)
...
 @[deprecated (since := "2026-03-29")] alias ord_eq := exists_ord_eq
 
-open Classical in
 /-- There exists a well-order on `α` whose order type is exactly `ord #α`. -/
 theorem exists_ord_eq_type_lt (α) :
     ∃ (_ : LinearOrder α) (_ : WellFoundedLT α), ord #α = typeLT α :=
+  open scoped Classical in
   let ⟨r, _, hr⟩ := exists_ord_eq α
   let := linearOrderOfSTO r
   ⟨this, inferInstance, hr⟩
```
Comment (Vierkantor) [inline Mathlib/SetTheory/Ordinal/Basic.lean]:
```suggestion
    ∃ (_ : LinearOrder α) (_ : WellFoundedLT α), ord #α = typeLT α := by
  classical
  let ⟨r, _, hr⟩ := exists_ord_eq α
  let := linearOrderOfSTO r
  exact ⟨this, inferInstance, hr⟩
```

File: Mathlib/Order/Preorder/Chain.lean [hunk 4]
```diff
@@ -300,8 +300,8 @@ theorem succChain_spec (h : ∃ t, IsChain r s ∧ SuperChain r s t) :
   have : IsChain r s ∧ SuperChain r s h.choose := h.choose_spec
   simpa [SuccChain, dif_pos, exists_and_left.mp h] using this.2
 
-open Classical in
 theorem IsChain.succ (hs : IsChain r s) : IsChain r (SuccChain r s) :=
+  open scoped Classical in
   if h : ∃ t, IsChain r s ∧ SuperChain r s t then (succChain_spec h).1
   else by
```
Comment (Vierkantor) [inline Mathlib/Order/Preorder/Chain.lean]:
```suggestion
theorem IsChain.succ (hs : IsChain r s) : IsChain r (SuccChain r s) := by
  classical
  if h : ∃ t, IsChain r s ∧ SuperChain r s t then exact (succChain_spec h).1
  else
```

File: Mathlib/Order/Preorder/Chain.lean [hunk 5]
```diff
@@ -313,8 +313,8 @@ theorem IsChain.superChain_succChain (hs₁ : IsChain r s) (hs₂ : ¬IsMaxChain
   obtain ⟨t, ht, hst⟩ := hs₂ hs₁
   exact succChain_spec ⟨t, hs₁, ht, ssubset_iff_subset_ne.2 hst⟩
 
-open Classical in
 theorem subset_succChain : s ⊆ SuccChain r s :=
+  open scoped Classical in
   if h : ∃ t, IsChain r s ∧ SuperChain r s t then (succChain_spec h).2.1
   else by
```
Comment (Vierkantor) [inline Mathlib/Order/Preorder/Chain.lean]:
```suggestion
theorem subset_succChain : s ⊆ SuccChain r s := by
  classical
  if h : ∃ t, IsChain r s ∧ SuperChain r s t then exact (succChain_spec h).2.1
  else
```

**Review by Vierkantor — APPROVED** [review]
I looked at about 30 files manually, and checked the rest of the diff with the command `git diff $(git merge-base HEAD upstream/master) -U0 | rg -v '^(---|\+\+\+)' | rg -v '^- *open Classical in$' | rg -v '^\+ *open scoped Classical in$' | rg -C1 '^[+-]'`. There were just a few lines with relevant changes that I then reviewed in detail.

Some small comments but mostly it looks very nice, thank you for such a lot of work. Out of curiosity: did you use some form of automation to make this change?

bors d+

**Comment by felixpernegger** [comment]
> Out of curiosity: did you use some form of automation to make this change?

Yes, a script that just goes through all occurences and replaces them if possible. Fortunately, AI is very good at making such scripts. :)
